US05589473
To a solution of 12.0 g of 2-bromo-5-hydroxy -3-methoxy-6-methyl-benzoic acid in 700 ml of acetonitrile were added at -5° C. 27.7 g of tert-butyldimethylchlorosilane and 18.5 g of triethylamine. The mixture was stirred for 30 min at -5° C. and for 16 h at 20° C. The solvent was evaporated in vacuo and the solid residue was washed with water and dried in vacuo. A solution of this material in 200 ml of ethanol was heated for 8 h to 80° C. The solvent was evaporated in vacuo and the residue was recrystallized from pentane to yield 12.0 g of 2-bromo-5-(tert-butyl-dimethylsilanyloxy)-3-methoxy-6-methyl-benzoic acid as white crystals, m.p. 120°-125° C.

reactant | 2-bromo-5-hydroxy -3-methoxy-6-methyl-benzoic acid | 12.0 g | BrC1=C(C(=O)O)C(=C(C=C1OC)O)C | C9H9BrO4
reactant | tert-butyldimethylchlorosilane | 27.7 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | triethylamine | 18.5 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 700 ml | C(C)#N | C2H3N
product | 2-bromo-5-(tert-butyl-dimethylsilanyloxy)-3-methoxy-6-methyl-benzoic acid | 12.0 g | BrC1=C(C(=O)O)C(=C(C=C1OC)O[Si](C)(C)C(C)(C)C)C | C15H23BrO4Si
